US05602117
(b) (3R,4R)-3-Phenoxyacetamido-4-[(RS)-tetrahydrothien-2-yl-carbonylmethylthio]azetidin-2-one
(RS)-2-Chloroacetyltetrahydrothiophene (2.50 g), (3R,4R)-4-mercapto-3-phenoxyacetamidoazetidin-2-one (4.60 g) and potassium carbonate (2.52 g) in DMF (30 ml) were stirred at room temperature for 2.5 h. T.l.c. analysis (ethyl acetate) showed completion of the reaction. The reaction mixture was diluted with ethyl acetate, washed with water (3×), brine and then dried. The solvent was evaporated and the residue flash chromatographed on silica gel eluting with 80% ethyl acetate/hexane to give the title compound as a pale yellow solid (4.194 g, 73%); m.p. 123° C., ethyl acetate/hexane; (Found: C, 53.51; H, 5.00; N, 7.39; S, 17.06%. C17H20N2O4S2 requires C, 53.66; H, 5.30; N, 7.36; S, 16.85%); νmax (CH2Cl2) 3405, 1785 and 1695 cm-1 ; δH (CDCl3), 1.81-1.95 (1H, m), 2.01-2.12 (2H, m), 2.28-2.42 (1H, m), 2.88 (2H, t, J 6.5 Hz), 3.39 and 3.56 with 3.39 and 3.45 (2H, 2 ABq, J 5.9 Hz), 4.07 and 4.09 (1H, 2 t, J 3.8 and 3.7 Hz), 4.58 (2H, s), 5.00 and 5.04 (1H, 2d, J 4.6 Hz), 5.58 and 5.60 (1H, 2 dd's,J 4.6, 9.2 Hz), 6.55 and 6.64 (1H, 2 br s), 6.94-7.07 (3H, m), 7.27-7.36 (2H, m), and 7.46 and 7.47 (1H, 2 br d, J 9.2 Hz).

reactant | (RS)-2-Chloroacetyltetrahydrothiophene | 2.50 g | ClCC(=O)C1SCCC1 | C6H9ClOS
reactant | (3R,4R)-4-mercapto-3-phenoxyacetamidoazetidin-2-one | 4.60 g | S[C@@H]1[C@@H](C(N1)=O)NC(COC1=CC=CC=C1)=O | C11H12N2O3S
reactant | potassium carbonate | 2.52 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (3R,4R)-3-Phenoxyacetamido-4-[(RS)-tetrahydrothien-2-yl-carbonylmethylthio]azetidin-2-one | 4.194 g, 73% | O(C1=CC=CC=C1)CC(=O)N[C@@H]1C(N[C@@H]1SCC(=O)C1SCCC1)=O | C17H20N2O4S2
